US07737152B2
2-Chloro-6-(quinoline-5-oxy)-pyrazine, CJS 524(A)
Using Method DD with 2,6-dichloropyrazine (250 mg, 1.69 mmol) and 5-hydroxyquinoline (270 mg, 1.49 mmol), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (264 mg). Yield: 61%. 1H NMR (250 MHz, DMSO-d6) δ 7.54-7.58 (m, 2H, Harom 3+8), 7.84 (t, 1H, Harom 7, J=8.1 Hz), 8.01 (d, 1H, Harom 6, J=8.5 Hz), 8.37 (d, 1H, Harom 4, J=8.0 Hz), 8.55 (s, 1H, HPz 5), 8.73 (s, 1H, HPz 3), 8.98 (dd, 1H, Harom 2, J=1.4 Hz, J=4.0 Hz). m/z: 258.0 [(M+H)+, calcd for C13H8ClN3O 257.0].

reactant | 2,6-dichloropyrazine | 1.69 mmol, 250 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 5-hydroxyquinoline | 1.49 mmol, 270 mg | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Chloro-6-(quinoline-5-oxy)-pyrazine | Yield: 61% | ClC1=NC(=CN=C1)OC=1C=2C=CC=NC2C=CC1 | C13H8ClN3O
